US08580812B2
Step 2. 4-Hydroxymethylpyrazolo[1,5-a]pyridine-2-carboxylic acid ethyl ester
Acetyl chloride (9.5 mL, 130 mmol) is added to absolute ethanol (200 mL). After 30 min, the solution is poured into the flask containing 4-hydroxymethyl-pyrazolo[1,5-a]pyridine-2-carboxylic acid. The mixture is warmed to 50° C. for 3.5 h. After cooling to rt, the mixture is made basic with dropwise addition of sat. aq. NaHCO3. The volatiles are removed under reduced pressure. The aqueous solution is extracted with EtOAc. The organics are dried over Na2SO4, filtered, and concentrated to afford the title compound as a tan powder. LC-MS m/z (M+Na+): 242.98§.

reactant | Acetyl chloride | 130 mmol, 9.5 mL | C(C)(=O)Cl | C2H3ClO
reactant | 4-hydroxymethyl-pyrazolo[1,5-a]pyridine-2-carboxylic acid | OCC=1C=2N(C=CC1)N=C(C2)C(=O)O | C9H8N2O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 4-Hydroxymethylpyrazolo[1,5-a]pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN2C(C(=CC=C2)CO)=C1 | C11H12N2O3
